US04684661
N-Methyl-N-(1-naphthylmethyl)-5,5-dimethyl-3-hexyn-amine
To a solution of 540 mg 5,5-dimethyl-3-hexyn-1-ol in dimethylformamide (DMF) are added, at 0° 1.2 ml triethylamine. Then are added, dropwise, with stirring, 0.335 ml methanesulfonylchloride. After 2 hours of stirring at room temperature are added 740 mg N-methyl-1-naphthylmethylamine and the mixture is heated overnight at 80°. The solvent is evaporated in vacuum, the residue distributed between saturated aqueous NaHCO3 solution and ethyl acetate, the organic phase washed, dried and evaporated. The crude residue is chromatographed over silicagel (with toluene/ethylacetate 9/1) and the title compound (Compound 1) obtained as an oil.

reactant | 5,5-dimethyl-3-hexyn-1-ol | 540 mg | CC(C#CCCO)(C)C | C8H14O
reactant | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonylchloride | 0.335 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-methyl-1-naphthylmethylamine | 740 mg | CNCC1=CC=CC2=CC=CC=C12 | C12H13N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-Methyl-N-(1-naphthylmethyl)-5,5-dimethyl-3-hexyn-amine | CN(CCC#CC(C)(C)C)CC1=CC=CC2=CC=CC=C12 | C20H25N
